US04109000
Preparation of methyl 5-(4-nitrobenzyl)picolinate:
6.0 Grams of methyl 5-benzylpicolinate were dissolved in 20 ml. of concentrated sulfuric acid at room temperature. A solution of 2.7 g of sodium nitrate in 20 ml. of concentrated sulfuric acid was added dropwise thereto under cooling to keep internal temperature at 5° C. After three hours, the reaction solution was poured into ice-water and neutralized with sodium carbonate. After extraction with ethyl acetate, washing with water and drying, the solvent was distilled out. The residue was recrystallized from methanol to obtain 3.5 g of 172°-178° C.

reactant | methyl 5-benzylpicolinate | C(C1=CC=CC=C1)C=1C=CC(=NC1)C(=O)OC | C14H13NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrate | 2.7 g | [N+](=O)([O-])[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | methyl 5-(4-nitrobenzyl)picolinate | [N+](=O)([O-])C1=CC=C(CC=2C=CC(=NC2)C(=O)OC)C=C1 | C14H12N2O4
